US06858638B2
N-(3-Furan-2-yl-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide can be obtained as described in Example 47 from 1 g of tert-butyl 3-iodo-5-(N-tert-butoxycarbonyl-2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate, 330 mg of 2-furanboronic acid, 40 ml of dimethylformamide, 3.2 ml of a saturated aqueous sodium hydrogencarbonate solution and 42.7 mg of tetrakis(triphenylphosphine)palladium[0]. 200 mg of N-(3-furan-2-yl-1 H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of a white solid melting at 248° C. (analysis C18H15N3O5S2 % calculated C, 51.79; H, 3.62; N, 10.07; O, 19.16; S, 15.36. % found C, 51.95; H, 3.75; N, 9.68; S, 14.75).

reactant | tert-butyl 3-iodo-5-(N-tert-butoxycarbonyl-2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 1 g | IC1=NN(C2=CC=C(C=C12)N(C(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C24H28IN3O8S2
reactant | 2-furanboronic acid | 330 mg | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | sodium hydrogencarbonate | 3.2 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-(3-furan-2-yl-1 H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide | 200 mg | O1C(=CC=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C18H15N3O5S2
